US04824468
2-(m-chlorophenyl)-3-isovaleroyl-5-ethyl-1,3-oxazolidine
Four and two-tenths grams of 2-(m-chlorophenyl)-5-ethyl-1,3-oxazolidine was combined with 1.7 g of pyridine in 25 ml of methylene chloride and 2.4 g of isovaleroyl chloride was added dropwise with stirring and the mixture was stirred overnight. The mixture was washed with 50 ml of 5% NaOH and 200 ml of water, dried with MgSO4 and stripped under vacuum. The yield was 2.4 g, nD30 1.5490. The structure was confirmed by NMR and infrared spectroscopy.

reactant | 2-(m-chlorophenyl)-5-ethyl-1,3-oxazolidine | ClC=1C=C(C=CC1)C1OC(CN1)CC | C11H14ClNO
reactant | pyridine | 1.7 g | N1=CC=CC=C1 | C5H5N
reactant | isovaleroyl chloride | 2.4 g | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(m-chlorophenyl)-3-isovaleroyl-5-ethyl-1,3-oxazolidine | ClC=1C=C(C=CC1)C1OC(CN1C(CC(C)C)=O)CC | C16H22ClNO2
